US08802688B2
Step 2. 2-carbamoyl-1H-indole-6-carboxylic acid
A solution of cyanogen bromide (5.0 mL, 5 M in acetonitrile, 25 mmol) was added to a mixture of methyl 3,4-diaminobenzoate (3.0 g, 18 mmol) in water (50 mL). The reaction was stirred at room temperature overnight. Aqueous ammonia (20 mL) and ethyl acetate (100 mL) were added to the reaction mixture and the layers were separated. The organics were dried over sodium sulfate, filtered, and concentrated. To the crude residue was added 2 N aqueous hydrochloric acid (18 mL, 36.0 mmol) and the mixture was heated at reflux overnight. The reaction was concentrated to give the title compound (2.90 g, 97%). 1H NMR (400 MHz, DMSO-d6, δ): 8.75 (s, 2 H), 7.84 (s, 1 H), 7.77 (dd, J=1.2 Hz, J=8.4 Hz, 1 H), 7.38 (d, J=8.4 Hz, 1 H).

reactant | cyanogen bromide | 25 mmol, 5 M, 5.0 mL | N#CBr | CBrN
reactant | methyl 3,4-diaminobenzoate | 18 mmol, 3.0 g | NC=1C=C(C(=O)OC)C=CC1N | C8H10N2O2
reactant | ammonia | 20 mL | N | H3N
reactant | hydrochloric acid | 36.0 mmol, 2 N, 18 mL | Cl | ClH
reactant | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 50 mL | O | H2O
product | 2-carbamoyl-1H-indole-6-carboxylic acid | 2.90 g, 97% | C(N)(=O)C=1NC2=CC(=CC=C2C1)C(=O)O | C10H8N2O3
